US04514401
In to a solution consisting of 6.7 g of 6-(α-chloroacetyl)-3,4-dihydrocarbostyril and 60 ml of anhydrous dimethylformamide was added 4.4 g of piperazine and 5 ml of triethylamine and the reaction mixture was stirred at 50° to 60° C. for 1 hour. The reaction mixture thus obtained was poured into a large amount of water and was extracted with chloroform. The chloroform layer was washed with water, dried and chloroform was removed by distillation. The residue obtained was suspended in a mixture of methanol-chloroform and by adding hydrochloric acid/methanol to obtain 3.5 g of 6-(1-piperazinyl)acetyl-3,4-dihydrocarbostyril monohydrochloride trihydrate in the form of colorless needle-like crystals. Melting point: 265°-267° C. (decomposed).

reactant | 6-(α-chloroacetyl)-3,4-dihydrocarbostyril | 6.7 g | ClCC(=O)C=1C=C2CCC(NC2=CC1)=O | C11H10ClNO2
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | piperazine | 4.4 g | N1CCNCC1 | C4H10N2
reactant | hydrochloric acid methanol | Cl.CO
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | water | O | H2O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 6-(1-piperazinyl)acetyl-3,4-dihydrocarbostyril monohydrochloride trihydrate | 3.5 g | O.O.O.Cl.N1(CCNCC1)CC(=O)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C15H19N3O2.ClH.3H2O/c19-14(10-18-7-5-16-6-8-18)12-1-3-13-11(9-12)2-4-15(20)17-13;;;;/h1,3,9,16H,2,4-8,10H2,(H,17,20);1H;3*1H2
